US09145380B2
b) (E)-N,N-Diallyl-4-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)pyridine-3-sulfonamide
The title compound was synthesized as described for Example 204 c) in 50% yield, starting from N,N-diallyl-4-aminopyridine-3-sulfonamide and (E)-2-(4-chloro-2-methoxyphenyl)ethenesulfonyl chloride. Purification by column chromatography, using chloroform/methanol (98:2) as the eluent.

reactant | N,N-diallyl-4-aminopyridine-3-sulfonamide | C(C=C)N(S(=O)(=O)C=1C=NC=CC1N)CC=C | C11H15N3O2S
reactant | (E)-2-(4-chloro-2-methoxyphenyl)ethenesulfonyl chloride | ClC1=CC(=C(C=C1)/C=C/S(=O)(=O)Cl)OC | C9H8Cl2O3S
product | (E)-N,N-Diallyl-4-(2-(4-chloro-2-methoxyphenyl)vinylsulfonamido)pyridine-3-sulfonamide | 50% yield | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)\C=C\C1=C(C=C(C=C1)Cl)OC)CC=C | C20H22ClN3O5S2
